US07524845B2
(3-Chloro-pyrazolo[3,4-b]pyridin-2-yl)-acetic acid ethyl ester was treated with 1N lithium hydroxide (LiOH) (1 equiv) in 1 mL of MeOH to provide 2-(3-Chloro-pyrazolo[3,4-b]pyridine-2-yl)-acetic acid, which was used as directly in subsequent reactions without further purification: LCMS(ES) M+H 212.0, Rf 0.34 min (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C., 1 ml/min flow rate, a 2.5 min gradient of 20% to 100% B with a 1.1 min wash at 100% B; A=0.1% formic acid /5% acetonitrile /94.9% water, B=0.1% formic acid /5% water /94.9% acetonitrile).

reactant | (3-Chloro-pyrazolo[3,4-b]pyridin-2-yl)-acetic acid ethyl ester | C(C)OC(CN1N=C2N=CC=CC2=C1Cl)=O | C10H10ClN3O2
reactant | lithium hydroxide | 1N, 1 equiv | [OH-].[Li+]
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(3-Chloro-pyrazolo[3,4-b]pyridine-2-yl)-acetic acid | ClC=1N(N=C2N=CC=CC21)CC(=O)O | C8H6ClN3O2
